Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ANESTHESIOLOGY
 
Allergies: 
Penicillins / Codeine / clindamycin / lactose
 
Attending: ___.
 
Chief Complaint:
Tongue swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: ___ F w/ prior hx of two episodes of right sided tongue 
swellings presented with two hours of tongue swelling on the 
left after eating some triscuits. She states this time it was 
worse than her previous episodes. She has previously undergone 
allergen testing, C3 inhibitor testing for angioedema, all of 
which have turned up negative. Today, she received Benadryl, 
zantac and 60mg of methylpred in the ED after which her swelling 
reduced by a third according to her husband. She was admitted to 
___ for overnight monitoring of airway. The swelling is not 
responsive to Epipen. ROS was otherwise negative.
 
Past Medical History:
Past Medical History:
- Mixed migraine/tension headache

Past Surgical History:
- Umbilical hernia (small- repaired ___ years ago)
 
Social History:
___
Family History:
Father: lung cancer, HTN (deceased)
Mother: dementia, thyroid problems, HTN (deceased)
Sister: breast cancer (deceased at age ___
 
Physical Exam:
Admission Physical Exam:
Vitals - T 98.7 / BP 132/72 / HR 80 / RR 14 / O2sat 95% RA
General - NAD, Comfortable
HEENT - moist mucous membranes, PERRLA, EOMI, mild left-sided 
tongue swelling
Cardiac - RRR, no M/R/G
Chest - CTAB
Abdomen - soft, NT, ND
Extremities - warm and well-perfused
Neuro - A&OX3

Discharge Physical Exam:
Vitals - T 98.7 / BP 111/81 / HR 78 / RR 17 / O2sat 96%RA
General - NAD, Comfortable on RA
HEENT - moist mucous membranes, PERRLA, EOMI, tongue is 
symmetric
Cardiac - RRR, no M/R/G
Chest - CTAB
Abdomen - soft, NT, ND
Extremities - warm and well-perfused
Neuro - A&OX3

 
Pertinent Results:
___ 07:14PM BLOOD WBC-6.7 RBC-4.30 Hgb-12.2 Hct-38.8 MCV-90 
MCH-28.4 MCHC-31.4* RDW-13.0 RDWSD-42.7 Plt ___
___ 07:14PM BLOOD Neuts-45.6 ___ Monos-6.3 Eos-0.3* 
Baso-0.3 Im ___ AbsNeut-3.05 AbsLymp-3.15 AbsMono-0.42 
AbsEos-0.02* AbsBaso-0.02
___ 07:14PM BLOOD Glucose-107* UreaN-19 Creat-0.7 Na-141 
K-4.7 Cl-100 HCO3-26 AnGap-15
 
Brief Hospital Course:
Patient presented with two hours of tongue swelling on the left 
after eating some triscuits. She has previously had similar 
swelling on the right side twice; these episodes are not 
responsive to Epipen. She received Benadryl, Zantac and 60mg of 
Prednisolone in the ED after which her swelling reduced by a 
third according to her husband. ROS was otherwise negative. She 
was admitted to SICU for overnight monitoring of airway. She 
underwent frequent airway checks and was monitored on telemetry. 
Overnight, her swelling resolved completely and she was 
discharged with instructions to follow up with her PCP and 
immunologist. She was also provided with prescription for a 
short three day Prednisone taper: 30mg, 20mg and 10mg.

She was instructed to return to ED in case of recurrence of her 
symptoms. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  PredniSONE 30 mg PO ONCE Duration: 1 Dose 
please take 30mg today, 20mg tomorrow, 10mg day after 
Tapered dose - DOWN 
RX *prednisone 10 mg 1 tablet(s) by mouth once a day as 
instructed below Disp #*6 Tablet Refills:*0 
2.  PredniSONE 20 mg PO ONCE Duration: 1 Dose 
prescription for prednisone taper: 30mg, 20mg, 10mg for one day 
each.  
Tapered dose - DOWN  
3.  PredniSONE 10 mg PO ONCE Duration: 1 Dose 
prescription for prednisone taper: 30mg, 20mg, 10mg for one day 
each.  
Tapered dose - DOWN  
4.  Multivitamins 1 TAB PO DAILY  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Tongue swelling

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you here at ___. You were 
admitted for tongue swelling and stayed in the Intensive Care 
Unit overnight for airway monitoring. You received Benadryl and 
steroids for possible allergic reaction. Your airway remained 
intact overnight and you were breathing comfortably on room air. 
Your tongue swelling has improved and you are now ready for 
discharge home. Please follow-up with your PCP and allergist 
regarding your recurrent tongue swelling. You are discharged 
with a prescription for prednisone taper: 30mg, 20mg, 10mg for 
one day each. 

Please make sure to come back to the ED if you have tongue 
swelling, shortness of breath, wheezing.  
 
Followup Instructions:
___